US04024151
B. 5-[[4-(3,6-dihydro-4-phenyl-1(2H)-pyridinyl)butyl]amino]-5-oxopentanoic acid, hydrochloride (1:1)
4-Phenyl-1,2,3,6-tetrahydropyridine hydrochloride (10 g) is converted to its free base and combined with 11.0 g of N-(4-bromobutyl)glutarimide and 18 g of sodium carbonate in 200 ml of toluene. The mixture is refluxed for 5 hours, cooled to 25°C and 50 ml of water is added. After stirring for 15 minutes, the layers are separated and the organic layer is filtered through fritted glass to remove insoluble material and then extracted with 10% hydrochloric acid. The acid solution is allowed to stand in an open beaker for 1 week during which time the product precipitates out. It is filtered off and dried at 70° C, 0.1 mm of Hg, for 12 hours to yield 6.3 g of the title compound, melting point 163°-165°C.

reactant | 4-Phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 10 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | N-(4-bromobutyl)glutarimide | 11.0 g | BrCCCCN1C(CCCC1=O)=O | C9H14BrNO2
reactant | sodium carbonate | 18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[[4-(3,6-dihydro-4-phenyl-1(2H)-pyridinyl)butyl]amino]-5-oxopentanoic acid, hydrochloride | 6.3 g | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCCCNC(CCCC(=O)O)=O | InChI=1S/C20H28N2O3.ClH/c23-19(9-6-10-20(24)25)21-13-4-5-14-22-15-11-18(12-16-22)17-7-2-1-3-8-17;/h1-3,7-8,11H,4-6,9-10,12-16H2,(H,21,23)(H,24,25);1H
